US04954485
When the 2',3'-dideoxy-uridine derivatives being raw materials in the invention are allowed to react with phosphorus pentasulfide in pyridine solvent, the amount of phosphorus pentasulfide is desirable to be not less than 0.5 times mol, preferably 1 to 2 times mol to 2',3'-dideoxy-uridine derivatives. In order to raise the yield of reaction further, it is preferable to add water to the reaction system and the amount of water to be added therefor is preferable to be 0.5 times mol to equivalent mol to phosphorus pentasulfide. Although the reaction proceeds without the addition of water, the reaction liquor becomes blackish brown and tarry substances are produced at this time resulting in the lowering in yield by several steps. The reaction completes by refluxing for 2 to 5 hours. After the completion of reaction, the pyridine solution is concentrated to distill off pyridine and the residue is extracted with chloroform. Thus, aimed 2',3'-dideoxy-4-thiouridine derivatives can be obtained easily in a yield of not less than 95 %. Following this, by eliminating the protecting groups with alkali or acid according to usual method, 2',3'-dideoxy-4-thio-uridine being the compound of the invention can be prepared in high yield and yet with ease.

reactant | 2',3'-dideoxy-uridine | [C@@H]1(CC[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O4
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2',3'-dideoxy-4-thiouridine | yield of not less than 95 % | [C@@H]1(CC[C@@H](CO)O1)N1C(=O)NC(=S)C=C1 | C9H12N2O3S
